US04000142
By the method described in Example 11 using di-isopropylamine (2 ml 0.014 mol) in benzene (20 ml), n-butyl lithium solution (9% w/v, 10 ml, 0.014 mol), 2-ethyl-5,6,7,8-tetrahydroquinoline (2.3 g, 0.014 mol) and trimethylsilyl isothiocyanate (2 ml 0.015 mol) was obtained 2-ethyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide (600 mg, 20%) m.p. 73-5° C (Found: C, 65.25; H, 7.6; N, 12.75. C12H16N2S requires C, 65.4; H, 7.3; N, 12.7%).

reactant | di-isopropylamine | 0.014 mol, 2 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.014 mol, 10 ml | C(CCC)[Li]
reactant | 2-ethyl-5,6,7,8-tetrahydroquinoline | 0.014 mol, 2.3 g | C(C)C1=NC=2CCCCC2C=C1 | C11H15N
reactant | trimethylsilyl isothiocyanate | 0.015 mol, 2 ml | C[Si](C)(C)N=C=S | C4H9NSSi
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-ethyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | 600 mg | C(C)C1=NC=2C(CCCC2C=C1)C(N)=S | C12H16N2S
